US06458781B1
Step A. (S)-{1-[4,4-Bis-(4-fluoro-phenyl)-butylcarbamoyl]-3-methyl-butyl}-methyl-carbamic acid tert-butyl ester
N-tert-Butoxycarbonyl-N-methyl-L-leucine (0.42 g, 1.7 mmol, Bachem Inc., Torrance, Calif.) was dissolved in dry DMF (5 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (0.90 mL, 5.2 mmol) and solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.66 g, 1.7 mmol). The resulting reaction mixture was stirred at that temperature for 30 minutes; 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (0.51 g, 1.7 mmol) was then added. After additional 30 minutes stirring at 0° C., reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with 5% aqueous HCl solution, brine, saturated aqueous NaHCO3 solution, brine, and was dried over Na2SO4. Concentration in vacuo followed by drying under vacuum afforded the crude desired product which was used in the subsequent reaction without further purification.

reactant | N-tert-Butoxycarbonyl-N-methyl-L-leucine | 1.7 mmol, 0.42 g | C(C)(C)(C)OC(=O)N([C@@H](CC(C)C)C(=O)O)C | C12H23NO4
reactant | N,N-diisopropylethylamine | 5.2 mmol, 0.90 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.7 mmol, 0.66 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 1.7 mmol, 0.51 g | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | (S)-{1-[4,4-Bis-(4-fluoro-phenyl)-butylcarbamoyl]-3-methyl-butyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H](CC(C)C)C(NCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O)=O | C28H38F2N2O3
